US04868183
Preparation of 2-tert-butyl-6-isopropyl-1,4-benzoquinone
A 160 g quantity of sodium dichromate dihydrate was dissolved in a mixture of 100 ml of 97% sulfuric acid and 230 ml of water, and the solution was added to a solution of 45.0 g of 2-tert-butyl-6-isopropylphenol in 350 ml of diethyl ether with stirring at a temperature of 5°-10° C.over a period of 2.5 hours. The reaction mixture was poured into water and extracted with diethyl ether. The organic layer was washed serially with asaturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated. The resulting crude product was purified by silica gel column chromatography (eluent: diethyl ether-hexane=1:10), giving 12.7 g of the title compound as a pale yellow oil.

reactant | sodium dichromate dihydrate | O.O.[Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | 2-tert-butyl-6-isopropylphenol | 45.0 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)C)O | C13H20O
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 230 ml | O | H2O
solvent | diethyl ether | 350 ml | C(C)OCC | C4H10O
product | 2-tert-butyl-6-isopropyl-1,4-benzoquinone | 12.7 g | C(C)(C)(C)C=1C(C(=CC(C1)=O)C(C)C)=O | C13H18O2
